USH0000327
To a stirred solution of 12.8 grams (0.10 mole) of 4-chloroaniline in 85 ml of chloroform was added 8 ml of pyridine. The mixture was cooled to 10° and 16.1 grams (0.10 mole) of 2,3-dichloropropionyl chloride was added dropwise at such a rate that the reaction mixture temperature did not exceed 35°. Upon completion of addition, the reaction mixture was stirred at ambient temperature for 16 hours. The reaction mixture was concentrated under reduced pressure to a solid residue. The solid was slurried with water and collected by filtration. The dried solid was recrystallized from methylcyclohexane-ethyl acetate using silica gel as a decolorant to give 19.7 grams of 2,3-dichloro-N-(4-chlorophenyl)propanamide; mp 127.5°-129°.

reactant | 4-chloroaniline | 0.10 mole, 12.8 grams | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
reactant | 2,3-dichloropropionyl chloride | 0.10 mole, 16.1 grams | ClC(C(=O)Cl)CCl | C3H3Cl3O
solvent | chloroform | 85 ml | C(Cl)(Cl)Cl | CHCl3
product | 2,3-dichloro-N-(4-chlorophenyl)propanamide | 19.7 grams | ClC(C(=O)NC1=CC=C(C=C1)Cl)CCl | C9H8Cl3NO
